US05037829
A mixture of 4 parts of intermediate 38, namely 6-(hydroxyphenylmethyl)-4(3H)-quinazolinone, and 67.7 parts of a solution of hydrobromic acid in acetic acid 30% was stirred for 24 hours at room temperature. The reaction mixture was evaporated and the residue was co-evaporated with methylbenzene, yielding 6.5 parts (100%) of 6-(bromophenylmethyl)-4(3H)-quinazolinone monohydrobromide (interm. 48).

reactant | 6-(hydroxyphenylmethyl)-4(3H)-quinazolinone | OC(C=1C=C2C(NC=NC2=CC1)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(bromophenylmethyl)-4(3H)-quinazolinone monohydrobromide | 100% | Br.BrC(C=1C=C2C(NC=NC2=CC1)=O)C1=CC=CC=C1 | InChI=1S/C15H11BrN2O.BrH/c16-14(10-4-2-1-3-5-10)11-6-7-13-12(8-11)15(19)18-9-17-13;/h1-9,14H,(H,17,18,19);1H
